US05015656
(d) Methyl 4-acetoxy-5-methyl-3-thiophenecarboxylate
To methyl 4-acetoxy-2,5-dihydro-5-methyl-3-thiophene-carboxylate (68.3 g) in anhydrous methylene chloride (143 ml) was added sulphuryl chloride (30.4 ml) dropwise over 30 minutes. The black solution was stirred at room temperature over night.

reactant | methyl 4-acetoxy-2,5-dihydro-5-methyl-3-thiophene-carboxylate | 68.3 g | C(C)(=O)OC1=C(CSC1C)C(=O)OC | C9H12O4S
reactant | sulphuryl chloride | 30.4 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | methylene chloride | 143 ml | C(Cl)Cl | CH2Cl2
product | Methyl 4-acetoxy-5-methyl-3-thiophenecarboxylate | C(C)(=O)OC=1C(=CSC1C)C(=O)OC | C9H10O4S
